US08871797B2
To a stirred solution of 4-bromo-5-(2-methoxy-5-nitro-phenyl)-1-methyl-1H-pyrazole (1.799 g, 5.76 mmol) in EtOH (20 mL) was added SnCl2.2H2O (5.306 g, 23.05 mmol, 4.0 eq.), the mixture was stirred at reflux for 2 hrs and EtOH was removed under vacuum. The resulting solid was dissolved in EtOAc, 1N NaOH (30 mL) was added, and the mixture was stirred overnight. The white precipitate was filtered off through celite, and the aqueous phase was extracted with EtOAc (3×80 mL). The combined organic phase was dried over anhydrous MgSO4, filtered and evaporated. The crude reaction mixture was purified by SiO2 column chromatography (Eluent: EtOAc/Hexane=1/3 then 1/1) to give 3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-methoxy-phenylamine (1.430 g, 5.07 mmol, 88%) as a white solid: LCMS m/z (%)=282 (M+H79Br, 98), 284 (M+H81Br, 100). 1H NMR (400 MHz, CDCl3) δ: 7.52 (s, 1H), 6.86 (d, J=8.8 Hz, 1H), 6.80 (dd, J=2.8, 8.8 Hz, 1H), 6.22 (d, J=2.4 Hz, 1H), 4.25 (broad s, 2H), 3.72 (s, 3H), 3.71 (s, 3H).

reactant | 4-bromo-5-(2-methoxy-5-nitro-phenyl)-1-methyl-1H-pyrazole | 5.76 mmol, 1.799 g | BrC=1C=NN(C1C1=C(C=CC(=C1)[N+](=O)[O-])OC)C | C11H10BrN3O3
reactant | SnCl2.2H2O | 23.05 mmol, 5.306 g, 4.0 eq. | O.O.Cl[Sn]Cl
reactant | EtOAc Hexane | CCOC(=O)C.CCCCCC
solvent | EtOH | 20 mL | CCO | C2H6O
product | 3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-methoxy-phenylamine | 5.07 mmol, 1.430 g, 88% | BrC1=C(N(N=C1)C)C=1C=C(C=CC1OC)N | C11H12BrN3O
